US08404856B2
Step 3: 3-{[3-(3,5-dichlorophenoxy)-2-oxo-4-(trifluoromethyl)pyridin-1(2H)-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-6-aminium chloride 20-3
1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one (0.495 g, 1.05 mmol) was dissolved in a mixture of 20% methanol in CH2Cl2 (25 mL) and 4M HCl in dioxane (0.077 g, 2.10 mmol) was added. After 15 minutes, the reaction mixture was concentrated under reduced pressure and placed under vacuum for 4 hours to afford the title compound as a solid. 1H NMR (DMSO-d6 with NH4OH) δ 7.93 (d, J=7.1 Hz, 1H), 7.58 (d, J=8.7 Hz, 1H), 7.13-7.11 (m, 1H), 7.06-7.04 (m, 2H), 6.59 (d, J=7.2 Hz, 1H), 6.37-6.34 (m, 2H), 6.31 (d, J=8.7 Hz, 1H), 5.34 (s, 2H). HRMS (M+1)=470.0392.

reactant | 1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one | 1.05 mmol, 0.495 g | NC1=CC=C2C(=N1)NN=C2CN2C(C(=C(C=C2)C(F)(F)F)OC2=CC(=CC(=C2)Cl)Cl)=O | C19H12Cl2F3N5O2
reactant | dioxane | 2.10 mmol, 0.077 g | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4M | Cl | ClH
product | 3-{[3-(3,5-dichlorophenoxy)-2-oxo-4-(trifluoromethyl)pyridin-1(2H)-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-6-aminium chloride | [Cl-].ClC=1C=C(OC=2C(N(C=CC2C(F)(F)F)CC2=NNC3=NC(=CC=C32)[NH3+])=O)C=C(C1)Cl | InChI=1S/C19H12Cl2F3N5O2.ClH/c20-9-5-10(21)7-11(6-9)31-16-13(19(22,23)24)3-4-29(18(16)30)8-14-12-1-2-15(25)26-17(12)28-27-14;/h1-7H,8H2,(H3,25,26,27,28);1H
